US07741327B2
To a stirred solution of (S)-2-amino-3-cyclohexyl-propionic acid methyl ester (1.05 g, 0.006 mol) in N,N-dimethylformamide (8 mL) was added N,N-diisopropylethylamine (3.30 g, 0.026 mol) slowly at room temperature, under nitrogen. The resulting mixture was stirred for 5 min and then treated with (E)-3-(2-benzyloxy-phenoxy)-4-bromo-but-2-enoic acid ethyl ester (2.00 g, 0.005 mol) and the reaction mixture was heated at 110° C.-120° C. for 16 h. After this time, ice water was added and the resulting mixture was extracted with ethyl acetate. The combined organic layers were washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate and concentrated in vacuo. Purification by flash column chromatography (silica gel (100-200 mesh)) afforded (S)-2-[4-(2-benzyloxy-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-3-cyclohexyl-propionic acid methyl ester (360 mg, 14%) as a yellow oil.

reactant | (S)-2-amino-3-cyclohexyl-propionic acid methyl ester | 0.006 mol, 1.05 g | COC([C@H](CC1CCCCC1)N)=O | C10H19NO2
reactant | N,N-diisopropylethylamine | 0.026 mol, 3.30 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (E)-3-(2-benzyloxy-phenoxy)-4-bromo-but-2-enoic acid ethyl ester | 0.005 mol, 2.00 g | C(C)OC(\C=C(/CBr)\OC1=C(C=CC=C1)OCC1=CC=CC=C1)=O | C19H19BrO4
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | (S)-2-[4-(2-benzyloxy-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-3-cyclohexyl-propionic acid methyl ester | 360 mg, 14% | COC([C@H](CC1CCCCC1)N1C(C=C(C1)OC1=C(C=CC=C1)OCC1=CC=CC=C1)=O)=O | C27H31NO5
